US08193356B2
To a suspension of 4-hydroxy-1-phenyl-3-(2-phenylbutyryl)-1,8-naphthyridin-2(1H)-one (98 mg, 0.25 mmol) produced in Synthesis Example 39 in DMF (2 mL) was added hydrazine monohydrate (purity of 80%, 40 μL), and the mixture was stirred at 110 to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration and washed with water. The precipitate was recrystallized from ethanol and diisopropyl ether to give 5-phenyl-3-(1-phenylpropyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one as a form of crystal (51 mg, yield 53%).

reactant | 4-hydroxy-1-phenyl-3-(2-phenylbutyryl)-1,8-naphthyridin-2(1H)-one | 0.25 mmol, 98 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(C(CC)C1=CC=CC=C1)=O | C24H20N2O3
reactant | hydrazine monohydrate | 40 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-phenyl-3-(1-phenylpropyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | C1(=CC=CC=C1)N1C(C2=C(C=3C=CC=NC13)NN=C2C(CC)C2=CC=CC=C2)=O | C24H20N4O
